US06506744B1
To a solution of 3-(R,S)-{2-[7-Amino-3-(S)-(4-hydroxy-benzyl)-2,5-dioxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepin-4-yl]-acetylamino}-butyric acid (0.2 mmol, 88mg). in DMF (6 ml) was added benzylisocyanate (158 μl 1.2 mmol). The mixture was shaken at 45° C. over night and then was evaporated to dryness. The crude product was purified by RP-HPLC to give 3-(R,S)-{2-[7-(3-benzyl-ureido)-3-(S)-(4-hydroxy-benzyl)-2,5-dioxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepin-4-yl]-acetylamino}-butyric acid: MS (ISN) 572 (M−H)−.

reactant | 3-(R,S)-{2-[7-Amino-3-(S)-(4-hydroxy-benzyl)-2,5-dioxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepin-4-yl]-acetylamino}-butyric acid | 0.2 mmol, 88mg | NC1=CC2=C(NC([C@@H](N(C2=O)CC(=O)NC(CC(=O)O)C)CC2=CC=C(C=C2)O)=O)C=C1 | C22H24N4O6
reactant | benzylisocyanate | 1.2 mmol, 158 μl | C(C1=CC=CC=C1)N=C=O | C8H7NO
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 3-(R,S)-{2-[7-(3-benzyl-ureido)-3-(S)-(4-hydroxy-benzyl)-2,5-dioxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepin-4-yl]-acetylamino}-butyric acid | C(C1=CC=CC=C1)NC(NC1=CC2=C(NC([C@@H](N(C2=O)CC(=O)NC(CC(=O)O)C)CC2=CC=C(C=C2)O)=O)C=C1)=O | C30H31N5O7
